US06462198B1
(2,2-Diphenyl-propionyl)-carbamic acid 2,2,2-trifluoro-ethyl ester
The title compound, white solid, m.p.=143-145° C., MS: m/e=351.3 (M+H+) was prepared in accordance with the general method of example 1 from 2,2-diphenylpropionyl isocyanate and 2,2,2-trifluoro-ethanol.

reactant | 2,2-diphenylpropionyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)(C)C1=CC=CC=C1 | C16H13NO2
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
product | (2,2-Diphenyl-propionyl)-carbamic acid 2,2,2-trifluoro-ethyl ester | FC(COC(NC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)(F)F | C18H16F3NO3
